US05977178
To a suspension of 4-tert-butoxycarbonylamino cyclohexanecarboxylic acid (115 mg, 0.47) in 5 ml of dichloromethane was added 1-hydroxy-7-azabenzotriazole (64 mg, 0.47 mmol) in 0.5 ml N,N-dimethylformamide. 1-Ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (100 mg, 0.52) was added and the solution was stirred for 20 min. Diisopropylethylamine (120 mg, 0.94 mmol) and N-methyl-2-methylamino-N-(1-methylcarbamoyl-2-phenylethyl)-3-(2-naphthyl)propionamide (191 mg, 0.47 mmol) in 5 ml of dichloromethane was added and the mixture was alloved to stand overnight at room temperature. The mixture was washed with water (5 ml), sodium bicarbonate (5 ml) water (2×5 ml) and brine (5 ml), dried over magnesium sulfate and concentrated in vacuo. The crude product was chromatographed on silica (20 g) with ethyl acetate as eleuent to give 242 mg of (4-[N-Methyl-N-{(1R)-1-(N-methyl-[(1R)-1-(methylcarbamoyl)-2-phenylethyl]carbamoyl)-2-(2-naphtyl)ethyl}-carbamoyl]cyclohexyl)carbamic acid tert-butyl ester.

reactant | 4-tert-butoxycarbonylamino cyclohexanecarboxylic acid | 115 mg | C(C)(C)(C)OC(=O)NC1CCC(CC1)C(=O)O | C12H21NO4
reactant | 1-hydroxy-7-azabenzotriazole | 0.47 mmol, 64 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | 1-Ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 100 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | Diisopropylethylamine | 0.94 mmol, 120 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N-methyl-2-methylamino-N-(1-methylcarbamoyl-2-phenylethyl)-3-(2-naphthyl)propionamide | 0.47 mmol, 191 mg | CN(C(C(CC1=CC2=CC=CC=C2C=C1)NC)=O)C(CC1=CC=CC=C1)C(NC)=O | C25H29N3O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (4-[N-Methyl-N-{(1R)-1-(N-methyl-[(1R)-1-(methylcarbamoyl)-2-phenylethyl]carbamoyl)-2-(2-naphtyl)ethyl}-carbamoyl]cyclohexyl)carbamic acid tert-butyl ester | 242 mg | C(C)(C)(C)OC(NC1CCC(CC1)C(N([C@H](CC1=CC2=CC=CC=C2C=C1)C(N(C)[C@H](CC1=CC=CC=C1)C(NC)=O)=O)C)=O)=O | C37H48N4O5
